US09255096B1
3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)-N-(3-ethylphenyl)benzamide
To a mixture of 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoic acid (0.113 mmol, 35 mg), N, N-diisopropylethylamine (0.339 mmol, 0.059 mL), and catalytic DMAP in 1.2 mL 1,2-dichloroethane at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.136 mmol, 0.081 mL). After 7 min at rt, 3-ethylaniline (0.17 mmol, 0.021 mL) was added and the reaction stirred at rt for 5 hours. The reaction was quenched into dilute aqueous NaHCO3 solution, extracted with EtOAc, the EtOAc layer washed with H2O, dilute aqueous NaHCO3 solution, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting oil was chromatographed eluting with EtOAc/CDCl3 to give the title compound as a light yellow solid (32 mg, 69%).

reactant | 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)benzoic acid | 0.113 mmol, 35 mg | S1C=CC=2N=CC=3CN(CCC3C21)C=2C=C(C(=O)O)C=CC2 | C17H14N2O2S
reactant | N, N-diisopropylethylamine | 0.339 mmol, 0.059 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propylphosphonic anhydride | 0.136 mmol, 0.081 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-ethylaniline | 0.17 mmol, 0.021 mL | C(C)C=1C=C(N)C=CC1 | C8H11N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 1.2 mL | ClCCCl | C2H4Cl2
product | 3-(8,9-dihydrothieno[3,2-c]-2,7-naphthyridin-7(6H)-yl)-N-(3-ethylphenyl)benzamide | 32 mg, 69% | S1C=CC=2N=CC=3CN(CCC3C21)C=2C=C(C(=O)NC1=CC(=CC=C1)CC)C=CC2 | C25H23N3OS
